US04742074
1.12 g (10 mmol) of 1,3-dimethylpyrazoline-5-one was suspended in 10 ml of toluene containing 1.11 g of triethylamine. To the suspension was added dropwise a solution of 1.87 g of 1,1-dimethylindane-4-yl isocyanate in 2 ml of toluene with stirring at room temperature, followed by further stirring at room temperature for 12 hours. Thereafter, the reaction mixture was extracted with water three times. The aqueous layers were made acidic with concentrated hydrochloric acid and cooled with ice. The precipitate produced was filtered and air-dried to obtain 1.81 g of 1,3-dimethyl-5-oxo-N-(1,1-dimethylindane-4-yl)4,5-dihydropyrazole-4-carboxamide (mp 141.4° C.). Then, thus obtained 1,3-dimethyl-5-oxo-N-(1,1-dimethylindane-4-yl)-4,5-dihydropyrazole-4-carboxamide was added to a mixture of 5 ml of phosphorus oxychloride and 907 mg of N,N-diethylaniline. The resultant mixture was stirred under reflux with heating for 1.5 hour. The obtained reaction mixture was poured into ice water and extracted with chloroform three times. The chloroform layer was washed with water and dried over anhydrous magnesium sulfate. Thereafter, the solvent was distilled off under reduced pressure and the residue was recrystallized with ethanol to obtain 0.96 g of 5-chloro-1,3-dimethyl-N-(1,1-dimethylindane-4-yl)pyrazole-4-carboxamide (mp 175.2° C.).

reactant | 1,3-dimethylpyrazoline-5-one | 10 mmol, 1.12 g | CN1NC(=CC1=O)C | C5H8N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethylindane-4-yl isocyanate | 1.87 g | CC1(CCC=2C(=CC=CC12)N=C=O)C | C12H13NO
solvent | toluene | 10 ml, 1.11 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dimethyl-5-oxo-N-(1,1-dimethylindane-4-yl)4,5-dihydropyrazole-4-carboxamide | 1.81 g | CN1N=C(C(C1=O)C(=O)NC1=C2CCC(C2=CC=C1)(C)C)C | C17H21N3O2
